US05859053
b) 2-Acetoxybenzoic acid 2,3-dihydroxy-propylamide
The solution from 2-acetoxybenzoic acid 2,2-dimethyl-[1,3]dioxolan-4-yl-methylamide (184 mg, 0.63 mmol) in dichloromethane (5 ml) is treated with trifluoroacetic acid (1 ml). After 0.5 h at room temperature, the mixture is concentrated, the residue is taken up in toluene (10 ml) and the solution is concentrated. The residue is purified by column chromatography (dichloromethane/methanol=10/1). Yield: 132 mg.

reactant | 2-acetoxybenzoic acid 2,2-dimethyl-[1,3]dioxolan-4-yl-methylamide | 0.63 mmol, 184 mg | CC1(OCC(O1)N(C(C1=C(C=CC=C1)OC(C)=O)=O)C)C | C15H19NO5
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-Acetoxybenzoic acid 2,3-dihydroxy-propylamide | OC(CNC(C1=C(C=CC=C1)OC(C)=O)=O)CO | C12H15NO5
